US07074970B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir(cod)Cl]2 (6.7 mg, 0.01 mmol) and sodium carbonate (64 mg, 0.6 mmol) in toluene (1.0 ml), 1,3,5-adamantanetriol (1 mmol) and vinyl acetate (9 mmol) were added, followed by stirring at 100° C. in an atmosphere of argon gas for 5 hours. The reaction mixture was analyzed by gas chromatography to find that 1,3,5-tris(vinyloxy)adamantane, 3,5-bis(vinyloxy)-1-adamantanol, and 5-vinyloxy-1,3-adamantanediol were produced in yields of 52%, 18%, and 8%, respectively, with a conversion from 1,3,5-adamantanetriol of 97%.

reactant | sodium carbonate | 0.6 mmol, 64 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,3,5-adamantanetriol | 1 mmol | C12(CC3(CC(CC(C1)C3)(C2)O)O)O | C10H16O3
reactant | vinyl acetate | 9 mmol | C(C)(=O)OC=C | C4H6O2
reactant | 1,3,5-tris(vinyloxy)adamantane | C(=C)OC12CC3(CC(CC(C1)C3)(C2)OC=C)OC=C | C16H22O3
reactant | 3,5-bis(vinyloxy)-1-adamantanol | C(=C)OC12CC3(CC(CC(C1)(C3)OC=C)C2)O | C14H20O3
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | 5-vinyloxy-1,3-adamantanediol | C(=C)OC12CC3(CC(CC(C1)C3)(C2)O)O | C12H18O3
